** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/counter4bspi.sch
**.subckt counter4bspi
X1 Q1 CE gnd V X and_gate
X2 net1 clk V gnd Q1 clr ffdr
X3 CE Q1 net1 V gnd xor_gate
X5 net2 clk V gnd Q2 clr ffdr
X8 net4 clk V gnd Q3 clr ffdr
X11 net6 clk V gnd Q4 clr ffdr
X6 X Q2 net2 V gnd xor_gate
X9 net3 Q3 net4 V gnd xor_gate
X10 net5 Q4 net6 V gnd xor_gate
X4 Q2 X gnd V net3 and_gate
X7 Q3 net3 gnd V net5 and_gate
**.ends

* expanding   symbol:  and_gate.sym # of pins=5
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/and_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/and_gate.sch
.subckt and_gate A B gnd V out
*.iopin A
*.iopin out
*.iopin gnd
*.iopin V
*.iopin B
XM1 gnd A net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 B net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 B V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
X1 V gnd net1 out inv_gate
.ends


* expanding   symbol:  ffdr.sym # of pins=6
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/ffdr.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/ffdr.sch
.subckt ffdr D clk V GND Q R
*.iopin R
*.iopin clk
*.iopin Q
*.iopin D
*.iopin V
*.iopin GND
X2 D V GND net2 clk nclk tgate
X3 Q R net4 V GND nor_gate
X1 V GND net5 net1 inv_gate
X4 net5 V GND net4 nclk clk tgate
X5 net2 V GND net1 nclk clk tgate
X6 net4 V GND net3 clk nclk tgate
X7 V GND clk nclk inv_gate
X8 net5 R net2 V GND nor_gate
X9 V GND Q net3 inv_gate
.ends


* expanding   symbol:  xor_gate.sym # of pins=5
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/xor_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/xor_gate.sch
.subckt xor_gate A B out V gnd
*.iopin A
*.iopin out
*.iopin gnd
*.iopin V
*.iopin B
XM1 out B net3 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 gnd A net3 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out nB net1 V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 B V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 out nA net1 V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 out nA net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 gnd nB net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 nA A V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 nA A gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 nB B V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 nB B gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  inv_gate.sym # of pins=4
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/inv_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/inv_gate.sch
.subckt inv_gate V gnd in out
*.iopin in
*.iopin out
*.iopin gnd
*.iopin V
XM1 out in gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 out in V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  tgate.sym # of pins=6
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/tgate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/tgate.sch
.subckt tgate A V GND B nctrl ctrl
*.iopin ctrl
*.iopin A
*.iopin B
*.iopin nctrl
*.iopin GND
*.iopin V
XM1 A ctrl B GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 B nctrl A V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  nor_gate.sym # of pins=5
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/nor_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/nor_gate.sch
.subckt nor_gate out B A V gnd
*.iopin A
*.iopin out
*.iopin gnd
*.iopin V
*.iopin B
XM1 out A gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A V V sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 out B gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out B net1 V sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
